US03988373
A solution of [1-methyl-3-(2,6,6-trimethylcyclohexyl)propyl]dimethylamine (3.0 g) and propargylbromide (3.0 g) in methanol (20 cc) was refluxed for 1 hour, and thereto was added a solution of potassium iodide (4.5 g) in water (15 cc). After shaking the mixture, water (50 cc) was added thereto, and the aqueous solution was extracted with chloroform, The chloroform layer was washed with water, dried and concentrated to dryness. The residue was recrystallized from a mixed solvent of ethanol and ether to give colorless crystals (4.5 g) of [1-methyl-3-(2,6,6-trimethylcyclohexyl)propyl]dimethylpropargylammonium iodide, m.p. 165°-167° C.

reactant | [1-methyl-3-(2,6,6-trimethylcyclohexyl)propyl]dimethylamine | 3.0 g | CC(CCC1C(CCCC1(C)C)C)N(C)C | C15H31N
reactant | propargylbromide | 3.0 g | C(C#C)Br | C3H3Br
reactant | potassium iodide | 4.5 g | [I-].[K+]
reactant | methanol | 20 cc | CO | CH4O
solvent | water | 15 cc | O | H2O
solvent | water | 50 cc | O | H2O
product | [1-methyl-3-(2,6,6-trimethylcyclohexyl)propyl]dimethylpropargylammonium iodide | 4.5 g | [I-].CC(CCC1C(CCCC1(C)C)C)[N+](CC#C)(C)C | InChI=1S/C18H34N.HI/c1-8-14-19(6,7)16(3)11-12-17-15(2)10-9-13-18(17,4)5;/h1,15-17H,9-14H2,2-7H3;1H/q+1;/p-1
